US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-2-methylbenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and o-toluenesulfonylchloride (87 mg, 0.455 mmol) to give before Boc-deprotection 175 mg of a purple solid. M+1 439.2 Calcd 438.14.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | o-toluenesulfonylchloride | 0.455 mmol, 87 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-2-methylbenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=CC=C1)C)NS(=O)(=O)C | InChI=1S/C19H26N4O4S2.ClH/c1-15-6-3-4-7-19(15)29(26,27)22-17-9-8-16(14-18(17)21-28(2,24)25)23-12-5-10-20-11-13-23;/h3-4,6-9,14,20-22H,5,10-13H2,1-2H3;1H
